US07718693B2
D-pyroglutamic acid ethyl ester (4.0 g, 25.5 mmol) was dissolved in tetrahydrofuran (25 ml) and cooled to 0° C. Methyl iodide (1.66 ml, 26.7 mmol) was added and stirring continued for 10 minutes under argon at 0° C. Sodium hydride (60% in oil, 1.6 g, 26.7 mmol) was then added portionwise (allowing each portion to react). After addition of all the sodium hydride the mixture was allowed to warm to room temperature and stirred overnight under argon. The mixture was then treated with saturated aqueous ammonium chloride solution (˜15 ml) and stirred for 4 hrs. The organic layer was separated and the aqueous layer was extracted with more dichloromethane. The combined organic layers were dried over magnesium sulphate and then concentrated to a dark oil. This was purified by flash silica column chromatography, eluting with a 0-75% gradient of ethyl acetate in hexane, to give ethyl 1-methyl-5-oxoprolinate as a colourless oil (0.27 g) which was used in the next step without further purification.

reactant | D-pyroglutamic acid ethyl ester | 25.5 mmol, 4.0 g | C(C)OC([C@@H]1NC(CC1)=O)=O | C7H11NO3
reactant | Methyl iodide | 26.7 mmol, 1.66 ml | CI | CH3I
reactant | Sodium hydride | 26.7 mmol, 1.6 g | [H-].[Na+]
reactant | ammonium chloride | ˜15 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl 1-methyl-5-oxoprolinate | 0.27 g | CN1[C@H](C(=O)OCC)CCC1=O | C8H13NO3
